US06492394B1
To a solution of 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (4.7 g, 8.49 mmol) in a 4:1 mixture of ethanol/tetrahydrofuran (40 mL) was added 10% Pd/C (0.15 g). The reaction mixture was placed under a hydrogen balloon. After 3 h, the reaction mixture was filtered through Celite and the Celite cake was washed with ethanol. The filtrate was concentrated to give of 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid (3.9 g) as a white foam.

reactant | 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester | 8.49 mmol, 4.7 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C30H35NO7S
catalyst | Pd/C | 0.15 g | [Pd] | Pd
solvent | ethanol tetrahydrofuran | 40 mL | C(C)O.O1CCCC1
product | 2(R)-[(3,4-methylenedioxybenzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid | 3.9 g | C1OC=2C=C(CN([C@@H](C(=O)O)C(C)C)S(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)C=CC2O1 | C23H29NO7S
